US07312330B2
F. N-(4-tert-Butylphenyl)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine
A mixture of diisopropylethylamine (35 mg, 0.27 mmol), N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine (70 mg, 0.18 mmol) and 2,3-dichloropyridine (54 mg, 0.36 mmol) in dioxane (2 mL) and N,N-diethylacetamide (0.2 mL) was heated via microwave in a sealed tube at 180° C. for 10 hr. Solvent was removed in vacuo and residue was purified by column chromatography, product was obtained as a light yellow foam (27 mg).

reactant | diisopropylethylamine | 0.27 mmol, 35 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine | 0.18 mmol, 70 mg | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)CN1CCOCC1)CNCC2 | C22H31N5O
reactant | 2,3-dichloropyridine | 0.36 mmol, 54 mg | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | N,N-diethylacetamide | 0.2 mL | C(C)N(C(C)=O)CC | C6H13NO
product | N-(4-tert-Butylphenyl)-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydro-2-(morpholinomethyl)pyrido[3,4-d]pyrimidin-4-amine | 27 mg | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)CN1CCOCC1)CN(CC2)C2=NC=CC=C2Cl | C27H33ClN6O
